US06552022B1
(4-Piperazin-1-yl-phenyl)-carbamic Acid tert-butyl Ester
A solution of [4-(4-benzyl-piperazine-1-yl)-phenyl)-carbamic acid tert-butyl ester (43.5 g) in EtOH (1 L) containing Pd/C 10% (4 g) was hydrogenated at room temperature. After 72 hours, the catalyst was removed by filtration and the filtrate was evaporated under reduced pressure. The oily residue was then purified by flash chromatography eluting with AcOEt/isopropylamine (90/10) and the solid obtained was recristallized from AcOEt to give the title compound (17.5 g) as white crystals.

reactant | [4-(4-benzyl-piperazine-1-yl)-phenyl)-carbamic acid tert-butyl ester | 43.5 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1)=O | C22H29N3O2
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | EtOH | 1 L | CCO | C2H6O
catalyst | Pd/C | 4 g | [Pd] | Pd
product | (4-Piperazin-1-yl-phenyl)-carbamic Acid tert-butyl Ester | 17.5 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)N1CCNCC1)=O | C15H23N3O2
